US08431713B2
Step A: Preparation of 3-(2-chloropyridin-4-yloxy)-2-methylpyridine:
Sodium hydride (1.07 g, 42.3 mmol) was added to DMF (25 mL). 3-Hydroxy-2-methylpyridine (4.40 g, 40.3 mmol) was slowly added to the mixture and the reaction was stirred for 1 hour. 2-Chloro-4-nitropyridine (6.71 g, 42.3 mmol) was added and the reaction was stirred overnight at ambient temperature. Water was added and the reaction mixture was extracted with ethyl acetate. The organic layer was washed with water, dried and concentrated to give the title compound (8.0 g, 90% yield) as a yellow oil, which solidified upon standing at ambient temperature.

reactant | Sodium hydride | 42.3 mmol, 1.07 g | [H-].[Na+]
reactant | DMF | 25 mL | CN(C)C=O | C3H7NO
reactant | 3-Hydroxy-2-methylpyridine | 40.3 mmol, 4.40 g | OC=1C(=NC=CC1)C | C6H7NO
reactant | 2-Chloro-4-nitropyridine | 42.3 mmol, 6.71 g | ClC1=NC=CC(=C1)[N+](=O)[O-] | C5H3ClN2O2
solvent | Water | O | H2O
product | 3-(2-chloropyridin-4-yloxy)-2-methylpyridine | 8.0 g, 90% yield | ClC1=NC=CC(=C1)OC=1C(=NC=CC1)C | C11H9ClN2O
